US07476666B2
Step 1: Methyl 3-benzyloxy-5,7-dimethyl-7-ethoxycarbonyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate
To a solution of methyl 3-benzyloxy-7-ethoxycarbonyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate (500 mg, 1.34 mmol) in anhydrous DMF at 0° C. were added sodium hydride (35 mg, 1.47 mmol, 95% dispersion in oil) and iodomethane (100 μL, 1.61 mmol). The reaction was stirred for 1 hour and allowed to warm to room temperature. The mixture was quenched with aqueous 3N HCl (447 μL, 1.34 mmol) and partitioned between EtOAc and H2O. The aqueous layer was extracted several times with EtOAc, and the combined organic extracts were dried over Na2SO4 and concentrated to a yellow residue. Purification by reverse phase chromatography on a C-18 column using a gradient elution of 95-5% H2O (0.1% TFA)/CH3CN (0.1% TFA) and collection and concentration of the appropriate fractions afforded the title product as a clear oil. 1H NMR (400 MHz, d6-DMSO) δ 7.49-7.47 (m, 2H), 7.43-7.31 (m, 3H), 5.20 (dd, J=11.2, 39.6 Hz, 2H), 4.19-4.11 (m, 2H), 3.98 (q, J=13.6 Hz, 2H), 3.80 (s, 3H), 2.99 (s, 3H), 1.81 (s, 3H), 1.13 (t, J=7.2 Hz, 3H); ES MS (M+H)=402.

reactant | methyl 3-benzyloxy-7-ethoxycarbonyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | 1.34 mmol, 500 mg | C(C1=CC=CC=C1)OC=1C(=NN2C1C(NCC2C(=O)OCC)=O)C(=O)OC | C18H19N3O6
reactant | sodium hydride | 1.47 mmol, 35 mg | [H-].[Na+]
reactant | iodomethane | 1.61 mmol, 100 μL | IC | CH3I
reactant | HCl | 1.34 mmol, 3N, 447 μL | Cl | ClH
reactant | DMF | CN(C)C=O | C3H7NO
product | Methyl 3-benzyloxy-5,7-dimethyl-7-ethoxycarbonyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2(C(=O)OCC)C)C)=O)C(=O)OC | C20H23N3O6
